US08372864B2
1.4 g of methyl 7-[(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate is dissolved under an inert atmosphere in 18 cm3 of dimethylformamide at a temperature close to 20° C. This solution is cooled to a temperature close to 0° C., then 141 mg of sodium hydride (60% in oil) are added in 2 lots. The reaction mixture is stirred for 2 h at a temperature close to 0° C. 0.264 cm3 of iodomethane is introduced then the stirring is continued for 20 h while gradually allowing it to climb back up to a temperature close to 20° C. 20 cm3 of iced water and 50 cm3 of ethyl acetate are added to the reaction mixture. After decanting, the organic phase is washed with 20 cm3 of a 2M aqueous solution of hydrochloric acid, 3 lots of 20 cm3 of water then 30 cm3 of a saturated aqueous solution of sodium chloride. It is then dried over magnesium sulfate, filtered then concentrated using a rotary evaporator under reduced pressure (5 kPa). 1.187 g of methyl 7-[methyl(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate are obtained in the form of beige crystals.

reactant | methyl 7-[(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate | 1.4 g | CS(=O)(=O)NC=1C=C(C=2CCN(C(C2C1)=O)C(CCC)CCC)C(=O)OC | C19H28N2O5S
reactant | sodium hydride | 141 mg | [H-].[Na+]
reactant | iodomethane | 0.264 cm3 | IC | CH3I
reactant | water | 20 cm3 | O | H2O
solvent | dimethylformamide | 18 cm3 | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 cm3 | C(C)(=O)OCC | C4H8O2
product | methyl 7-[methyl(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate | 1.187 g | CN(C=1C=C(C=2CCN(C(C2C1)=O)C(CCC)CCC)C(=O)OC)S(=O)(=O)C | C20H30N2O5S
